US03946065
A mixture of 0.46 g of 2-(2'-chloroethyl)-3,5-diacetyl-cyclopentanecarbonitrile, 2.05 g of meta-chloroperbenzoic acid and 15 ml of chloroform was heated at 50°C for 4 days. The reaction mixture was treated by the same procedure as set forth in Example 32 to afford 0.40 g of 2-(2'-chloroethyl)-3,5-diacetoxy-cyclopentanecarbonitrile as an oily substance. The product had the following characteristics: Infrared absorption (film method): 2250, 1740, 1430, 1370, 1230, 1045, 1020. Nuclear magnetic resonance (in CDCl3): about 5.3 (two multiplet, 2H, two methyne protons at the 3- and 5-position), 3.65 (triplet, J=7 cps, methylene protons adjacent to chlorine), 2.10 (two singlets, two acetoxy protons).

reactant | 2-(2'-chloroethyl)-3,5-diacetyl-cyclopentanecarbonitrile | 0.46 g | ClCCC1C(C(CC1C(C)=O)C(C)=O)C#N | C12H16ClNO2
reactant | meta-chloroperbenzoic acid | 2.05 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2'-chloroethyl)-3,5-diacetoxy-cyclopentanecarbonitrile | 0.40 g | ClCCC1C(C(CC1OC(C)=O)OC(C)=O)C#N | C12H16ClNO4
